US06667316B1
A mixture of 2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-aminoisoindoline-1,3-dione (1.0 g, 2.4 mmol) and trifluoroacetic anhydride (3 mL) was heated to reflux for 30 minutes. The solvent was removed in vacuo to give an oil. The oil was stirred in ether (5 mL) and hexane (40 mL) for 3 days. The suspension was filtered and washed with ether to give a yellow solid. The solid was then recrystallized from ethanol (10 mL) to give N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-1,3-dioxoisoindolin-4-yl}-2,2,2-trifluoroacetamide as a yellow solid (280 mg, 23% yield): mp, 130-132° C.; 1H NMR (CDCl3) δ1.48 (t, J=6.9 Hz, 3H, CH3), 2.92 (s, 3H, CH3), 3.70 (dd, J=4.2, 14.3 Hz, 1H, CHH), 3.87 (s, 3H, CH3), 4.13 (q, J=6.9 Hz, 2H, CH2), 4.59 (dd, J=10.9, 14.3 Hz, 1H, CHH), 5.90 (dd, J=4.2, 10.9 Hz, 1H, NCH), 6.86 (d, J=8.3 Hz, 1H, Ar), 7.11-7.15 (m, 2H, Ar), 7.66 (d, J=7.2 Hz, 1H, Ar), 7.77 (t, J=7.5 Hz, 1H, Ar), 8.70 (d, J=8.4 Hz, 1H, Ar), 10.39 (s, 1H, NH); 13C NMR (CDCl3) δ14.59, 41.57, 48.68, 54.10, 55.89, 64.50, 111.48, 112.38, 115.16 (q, JCF=286 Hz), 117.19, 120.28, 120.31, 125.01, 128.85, 131.26, 134.63, 136.35, 148.63, 149.85, 155.36 (q, J2CF=38 Hz), 166.78, 169.14; Anal Calcd for C22H21N2O7F3S: C, 51.36; H, 4.11; N, 5.44. Found: C, 51.20; H, 4.07; N, 5.20.

reactant | 2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-aminoisoindoline-1,3-dione | 2.4 mmol, 1.0 g | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)N)=O | C20H22N2O6S
reactant | trifluoroacetic anhydride | 3 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hexane | 40 mL | CCCCCC | C6H14
solvent | ether | 5 mL | CCOCC | C4H10O
product | N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-1,3-dioxoisoindolin-4-yl}-2,2,2-trifluoroacetamide | 280 mg, 23% yield | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)NC(C(F)(F)F)=O)=O | C22H21F3N2O7S
